US07897597B2
tert-Butyl [4-(7-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]carbamate (21.0 g) was dissolved in ethanol (100 mL) and concentrated hydrochloric acid (13.0 mL). The reaction was heated at reflux for 1 hour and then cooled to ambient temperature. A tan precipitate formed. The solid was filtered and dried under vacuum for 16 hours to yield 12.1 g of 4-(7-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)butylamine dihydrochloride as a beige solid.

reactant | tert-Butyl [4-(7-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)butyl]carbamate | 21.0 g | C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCCNC(OC(C)(C)C)=O)COCC | C29H36N4O4
reactant | hydrochloric acid | 13.0 mL | Cl | ClH
solvent | ethanol | 100 mL | C(C)O | C2H6O
product | 4-(7-benzyloxy-2-ethoxymethyl-1H-imidazo[4,5-c]quinolin-1-yl)butylamine dihydrochloride | 12.1 g | Cl.Cl.C(C1=CC=CC=C1)OC=1C=CC=2C3=C(C=NC2C1)N=C(N3CCCCN)COCC | InChI=1S/C24H28N4O2.2ClH/c1-2-29-17-23-27-22-15-26-21-14-19(30-16-18-8-4-3-5-9-18)10-11-20(21)24(22)28(23)13-7-6-12-25;;/h3-5,8-11,14-15H,2,6-7,12-13,16-17,25H2,1H3;2*1H
